US07737166B2
4-Amino-6-bromo-5-hydroxy-2-methylbiphenyl-3-carbonitrile (I-42)
4-Amino-6-bromo-5-methoxy-2-methylbiphenyl-3-carbonitrile (I-40) (44.5 mg, 0.14 mmol) was dissolved in dichloromethane (dewatered, 1.4 ml) under nitrogen atmosphere, and cooled in a dry ice-methanol bath at −70° C. 1 M Tribromoborane (dichloromethane solution, 0.42 ml) was dropwise added to it at −70 to −68° C., followed by stirring for 1.5 hours with heating up to 0° C. The reaction liquid was diluted with cold water, and controlled to have a pH of 6 to 7 with aqueous 10% sodium carbonate solution added thereto. The organic matter was extracted with ethyl acetate, washed with saturated brine, then dried on anhydrous magnesium sulfate, the solvent was evaporated away under reduced pressure to obtain the entitled compound (42.4 mg, quant.) as a pale brown solid.

reactant | 4-Amino-6-bromo-5-methoxy-2-methylbiphenyl-3-carbonitrile | 0.14 mmol, 44.5 mg | NC1=C(C(=C(C(=C1OC)Br)C1=CC=CC=C1)C)C#N | C15H13BrN2O
reactant | Tribromoborane | 1 M, 0.42 ml | BrB(Br)Br | BBr3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 1.4 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 4-Amino-6-bromo-5-hydroxy-2-methylbiphenyl-3-carbonitrile | NC1=C(C(=C(C(=C1O)Br)C1=CC=CC=C1)C)C#N | C14H11BrN2O
